US07759369B2
6-({5-Chloro-2-[(2-methyl-2-propen-1-yl)oxy]phenyl}methyl)-2-pyridinecarboxylic acid
Ethyl 6-({5-chloro-2-[(2-methyl-2-propen-1-yl)oxy]phenyl}methyl)-2-pyridinecarboxylate (60 mg, 0.17 mmol) was stirred at 60° C. for 2 hours in ethanol (3 ml) and 2M sodium hydroxide solution (0.4 ml). The reaction mixture was cooled and evaporated. The residue was diluted with water and extracted with diethyl ether. The aqueous phase was then acidified with glacial acetic acid and extracted with ethyl acetate (2×20 ml), dried (MgSO4) and evaporated to give the title compound as a yellow oil (38 mg).

reactant | Ethyl 6-({5-chloro-2-[(2-methyl-2-propen-1-yl)oxy]phenyl}methyl)-2-pyridinecarboxylate | 0.17 mmol, 60 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)OCC)OCC(=C)C | C19H20ClNO3
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2M, 0.4 ml | [OH-].[Na+]
product | 6-({5-Chloro-2-[(2-methyl-2-propen-1-yl)oxy]phenyl}methyl)-2-pyridinecarboxylic acid | 38 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)OCC(=C)C | C17H16ClNO3
